US09399647B2
The TEA (0.6 g, 0.0064 mol) was added dropwise at 10° C. to a mixture of 3-(4-chloro-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester (1 g, 0.0032 mol) and cyclopropyl methyl amine hydrochloride (0.35 g, 0.0032 mol) in methanol (20 ml). The resulting mixture was stirred at R.T for 10 hrs. Methanol was removed and the reaction mixture was diluted with water and extracted with ethyl acetate (3×25 ml). The combined organic layers were dried over Na2SO4, concentrated and subjected to column purification on 60-120 silica using ethyl acetate (50%) in hexane to give 0.5 g (43%) of 3-[4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl]-propionic acid methyl ester. 1H NMR (400 MHz, DMSO) δ ppm=0.35 (m, 2H), 0.72 (m, 2H), 1.69 (m, 2H), 1.85 (m, 2H), 2.77 (q, 4H), 2.86 (q, 2H), 2.9 (m, 1H), 2.97 (s, 3H) 3.02 (t, 2H), 3.56 (s, 3H). LC-MS: [M+H]=345.8.

reactant | 3-(4-chloro-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester | 0.0032 mol, 1 g | COC(CCC=1N=C(C2=C(N1)SC1=C2CCCC1)Cl)=O | C14H15ClN2O2S
reactant | cyclopropyl methyl amine hydrochloride | 0.0032 mol, 0.35 g | Cl.C1(CC1)NC
solvent | methanol | 20 ml | CO | CH4O
product | 3-[4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl]-propionic acid methyl ester | 0.5 g, 43% | COC(CCC=1N=C(C2=C(N1)SC1=C2CCCC1)N(C)C1CC1)=O | C18H23N3O2S
